US04521598
[2R-(2α,7α,8β)],-4-Ethoxy-9-oxo-8-[(2-thienylacetyl)-amino]-6-thia-1,3-diazabicyclo[5.2.0]non-3-ene-2-carboxylic acid 4-nitrobenzyl ester
A solution of 2.53 g of p-nitrobenzyl 7β-[(2-thienylacetyl)amino]-3-azido-3-cephem-4-carboxylate in 50 ml. of acetone and 50 ml. of ethyl alcohol was heated at the reflux temperature for 1.25 hr. and thereafter the solution was evaporated to dryness. The crude product showed three spots on a thin layer chromatogram. The predominant 4-ethoxy-1,3-diaza isomer (title compound) was separated from the other isomer by chromatography over 15 g. of silica gel using 600 ml. of toluene vs 600 ml. of 75% ethyl acetate-toluene. The title compound was obtained crystalline as fine white needles (0.713 g.) melting at about 154° C. to about 155° C. after recrystallization from methylethyl ketone-hexane.

reactant | p-nitrobenzyl 7β-[(2-thienylacetyl)amino]-3-azido-3-cephem-4-carboxylate | 2.53 g | S1C(=CC=C1)CC(=O)N[C@H]1[C@@H]2N(C(=C(CS2)N=[N+]=[N-])C(=O)OCC2=CC=C(C=C2)[N+](=O)[O-])C1=O | C20H16N6O6S2
reactant | acetone | CC(=O)C | C3H6O
solvent | ethyl alcohol | C(C)O | C2H6O
product | 4-Ethoxy-9-oxo-8-[(2-thienylacetyl)-amino]-6-thia-1,3-diazabicyclo[5.2.0]non-3-ene-2-carboxylic acid 4-nitrobenzyl ester | [N+](=O)([O-])C1=CC=C(COC(=O)C2N3C(C(C3SCC(=N2)OCC)NC(CC=2SC=CC2)=O)=O)C=C1 | C22H22N4O7S2
